US08980903B2
(R)-tert-butyl 4-(6-chloropyridazin-3-yl)-2-methylpiperazine-1-carboxylate (11):
A mixture of 3,6-dichloropyridazine (298 mg, 2 mmol) and (R)-1-N-Boc-2-methyl piperazine (401 mg, 2.0 mmol) in N,N-diisopropylethylamine (0.7 mL, 4 mmol) was stirred at 120° C. for 5 h. The reaction mixture was diluted with ethyl acetate and washed with brine (2×), then dried over MgSO4. The salts were removed by filtration and the filtrate was concentrated and the residue was purified by chromatography on silica gel eluting with 20% to 80% ethyl acetate in hexane to give compound 11as a light yellow solid (511 mg, 82%). 1H NMR (500 MHz, CD3OD) δ 7.24 (1H, d, J=10 Hz), 6.88 (1H, d, J=10 Hz), 4.38 (1H, br s), 4.17 (1H, d, J=10 Hz), 4.05-3.97 (2H, m), 3.39 (1H, dd, J=15 Hz, J=5 Hz), 3.29 (1H, ddd, J=15 Hz, J=10 Hz, J=5 Hz), 1.51 (9H, s), 1.21 (3H, d, J=10 Hz) ppm; LCMS-ESI (POS), M/Z, M+1: Found 313.1, Calculated 313.1.

reactant | 3,6-dichloropyridazine | 2 mmol, 298 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | (R)-1-N-Boc-2-methyl piperazine | 2.0 mmol, 401 mg | C(=O)(OC(C)(C)C)N1[C@@H](CNCC1)C | C10H20N2O2
reactant | N,N-diisopropylethylamine | 4 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-tert-butyl 4-(6-chloropyridazin-3-yl)-2-methylpiperazine-1-carboxylate | 511 mg, 82% | ClC1=CC=C(N=N1)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C | C14H21ClN4O2
